* c:\users\hp\esim-workspace\as2\as2.cir

.include lm555n.sub
.include 4017.sub
.include D.lib
* u2  c ic
.ic v(c)=0
x1 gnd c out1 net-_r1-pad2_ net-_c1-pad1_ c net-_r1-pad1_ net-_r1-pad2_ lm555n
c1  net-_c1-pad1_ gnd 0.01u
r3  net-_r1-pad1_ c 100k
r1  net-_r1-pad1_ net-_r1-pad2_ 1k
v1 net-_r1-pad2_ gnd  dc 5
* u2  c ic
c2  c gnd 50n
r2  net-_r2-pad1_ out1 1k
* u1  out1 plot_v1
* u5  net-_r2-pad1_ net-_u5-pad2_ adc_bridge_1
* u4  net-_r1-pad2_ net-_u4-pad2_ adc_bridge_1
* u9  net-_u4-pad2_ net-_u9-pad2_ d_inverter
x2 net-_u6-pad1_ net-_u6-pad2_ net-_u6-pad3_ net-_u6-pad4_ net-_u6-pad5_ net-_u7-pad1_ net-_u7-pad2_ net-_u7-pad3_ net-_u7-pad4_ net-_u7-pad5_ net-_u9-pad2_ net-_u5-pad2_ 4017
* u6  net-_u6-pad1_ net-_u6-pad2_ net-_u6-pad3_ net-_u6-pad4_ net-_u6-pad5_ o1 o2 o3 o4 o5 dac_bridge_5
* u7  net-_u7-pad1_ net-_u7-pad2_ net-_u7-pad3_ net-_u7-pad4_ net-_u7-pad5_ o6 o7 o8 o9 o10 dac_bridge_5
* u10  o1 plot_v1
* u8  o2 plot_v1
* u3  c plot_v1
* u16  o3 plot_v1
* u13  o4 plot_v1
* u17  o5 plot_v1
* u14  o6 plot_v1
* u18  o7 plot_v1
* u11  o8 plot_v1
* u15  o9 plot_v1
* u12  o10 plot_v1
d1 net-_d1-pad1_ o1 1N4148
r4  gnd net-_d1-pad1_ 1k
d2 net-_d1-pad1_ o2 1N4148
d3 net-_d1-pad1_ o3 1N4148
d4 net-_d1-pad1_ o4 1N4148
d5 net-_d1-pad1_ o5 1N4148
d6 net-_d1-pad1_ o6 1N4148
d7 net-_d1-pad1_ o7 1N4148
d8 net-_d1-pad1_ o8 1N4148
d9 net-_d1-pad1_ o9 1N4148
d10 net-_d1-pad1_ o10 1N4148
a1 [net-_r2-pad1_ ] [net-_u5-pad2_ ] u5
a2 [net-_r1-pad2_ ] [net-_u4-pad2_ ] u4
a3 net-_u4-pad2_ net-_u9-pad2_ u9
a4 [net-_u6-pad1_ net-_u6-pad2_ net-_u6-pad3_ net-_u6-pad4_ net-_u6-pad5_ ] [o1 o2 o3 o4 o5 ] u6
a5 [net-_u7-pad1_ net-_u7-pad2_ net-_u7-pad3_ net-_u7-pad4_ net-_u7-pad5_ ] [o6 o7 o8 o9 o10 ] u7
* Schematic Name: adc_bridge_1, NgSpice Name: adc_bridge
.model u5 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: dac_bridge_5, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: dac_bridge_5, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
.tran 5e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out1)
plot v(o1)
plot v(o2)
plot v(c)
plot v(o3)
plot v(o4)
plot v(o5)
plot v(o6)
plot v(o7)
plot v(o8)
plot v(o9)
plot v(o10)
.endc
.end
